US08663903B2
A 2 L reactor was charged under nitrogen with 7.0 g (purity 78%, 25 mmol) of methacrylic acid 1-hydroxycarbonyl-1,1-difluoro-2-butyl ester and 300 mL of THF (dehydrated), followed by cooling down to 0° C., adding 6.5 mL (47 mmol/1.9 equivalents) of triethylamine, and stirring at 0° C. for 10 minutes. Then, furthermore 4.7 g (40.0 mmol/1.6 equivalents) of 1-chloro-1-methylcyclopentane was added, followed by stirring at 0° C. for 20 minutes. To the reaction liquid 500 mL of water was added, followed by extraction two times with diisopropyl ether, removing water by magnesium sulfate, conducting a filtration, and distilling diisopropyl ether out, thereby obtaining 6.6 g of the target methacrylic acid 1-(1-methylcyclopentyloxycarbonyl)-1,1-difluoro-2-butyl ester. Upon this, purity was 96%, and yield was 83%.

reactant | methacrylic acid 1-hydroxycarbonyl-1,1-difluoro-2-butyl ester | 25 mmol, 7.0 g | OC(=O)C(C(CC)OC(C(=C)C)=O)(F)F | C9H12F2O4
reactant | THF | 300 mL | C1CCOC1 | C4H8O
reactant | triethylamine | 47 mmol, 6.5 mL, 1.9 equivalents | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-1-methylcyclopentane | 40.0 mmol, 4.7 g, 1.6 equivalents | ClC1(CCCC1)C | C6H11Cl
solvent | water | 500 mL | O | H2O
product | methacrylic acid 1-(1-methylcyclopentyloxycarbonyl)-1,1-difluoro-2-butyl ester | yield was 83% | CC1(CCCC1)OC(=O)C(C(CC)OC(C(=C)C)=O)(F)F | C15H22F2O4
